US04767768
4-Ethyl-2-hydroxyimino-5-nitro-hexanamide (15 mg) was prepared in the substantially same manner as that of Example 24 from 4-ethyl-5-nitro-2-oxo-hexanamide (20 mg) and hydroxylamine hydrochloride (14 mg).

reactant | 4-ethyl-5-nitro-2-oxo-hexanamide | 20 mg | C(C)C(CC(C(=O)N)=O)C(C)[N+](=O)[O-] | C8H14N2O4
reactant | hydroxylamine hydrochloride | 14 mg | Cl.NO
product | 4-Ethyl-2-hydroxyimino-5-nitro-hexanamide | 15 mg | C(C)C(CC(C(=O)N)=NO)C(C)[N+](=O)[O-] | C8H15N3O4
